US09145391B2
To a flask containing 2,6-dibromo-4-methylpyridine (13.9 g, 55.5 mmol) and 2-amino-4-trifluoromethylpyridine (9.0 g, 55.5 mmol) was added nitrogen sparged dioxane (180 mL). Sodium tert-butoxide (5.87 g, 61.1 mmol) and 1,1′-bis(di-tert-butylphsophino)ferrocene palladium dichloride (0.905 g, 1.4 mmol) were then added, and the slurry was evacuated and refilled with nitrogen. The mixture was stirred at 25° C. for 15 minutes and then heated to 75° C. for 12 hours. The reaction was cooled to 25° C., water (20 mL) was added, and the mixture was extracted with ethyl actetate (2×200 mL). The combined extracts were dried over Na2SO4, filtered, concentrated in vacuo. The residue was purified via chromatography on silica gel to afford 6-bromo-4-methyl-N-[4-(trifluoromethyl)pyridine-2-yl]pyridine-2-amine as a white solid. MS ESI calcd. for C12H10BrF3N3 [M+H]+ 332 and 334. found 332 and 334. 1H NMR (600 MHz, DMSO-d6) δ 10.40 (s, 1H), 8.46 (d, J=6.0 Hz, 1H), 7.90 (s, 1H), 7.60 (s, 1H), 7.18 (d, J=6.0 Hz, 1H), 7.00 (s, 1H), 2.25 (s, 3H).

reactant | 2,6-dibromo-4-methylpyridine | 55.5 mmol, 13.9 g | BrC1=NC(=CC(=C1)C)Br | C6H5Br2N
reactant | 2-amino-4-trifluoromethylpyridine | 55.5 mmol, 9.0 g | NC1=NC=CC(=C1)C(F)(F)F | C6H5F3N2
reactant | Sodium tert-butoxide | 61.1 mmol, 5.87 g | CC(C)([O-])C.[Na+]
product | 6-bromo-4-methyl-N-[4-(trifluoromethyl)pyridine-2-yl]pyridine-2-amine | BrC1=CC(=CC(=N1)NC1=NC=CC(=C1)C(F)(F)F)C | C12H9BrF3N3
